.title Non-Inverting Summing Amplifier

VCC 10 0 DC 15
VEE 11 0 DC -15

* Due ingressi di cui uno è 1
* V1 node 1
V2 3 0 DC 0.2

* Somma passiva in ingresso
R1 1 2 10k
R2 3 2 10k


R3 4 0 10k
R4 4 5 10k


OP 5 2 4 10 11 TL072 Rout=75 Imax=0.020 Gain=10000 Sr=13

.input 1
.output 5
.probe opamp-04-non-inverting-summing-amplifier.csv V(1) V(5)

